US05506239
A solution of 1.6 g of 6-hydroxycarbostyril, 1.4 g of potasium carbonate and 4.2 g of N-cyclooctylmethyl-N-[2-(4-methoxymethoxy-1-piperidinyl)-ethyl-N-(3-chloropropyl)urea in 20 ml of dimethylformamide was stirred at 80° C. for 1 day. The reaction mixture was poured into ice water, followed by extraction with ethyl acetate. The extract was washed with water and dried with magnesium sulfate. The solvent was removed by distillation. The resulting residue was purified by a silica gel column chromatography (eluant: 5% methanol/dichloromethane) to obtain 0.76 g of 6-[3-{N-[2-(4-methoxymethoxy-1-piperidinyl)ethyl]-N-cyclooctylmethylamino}carbonylaminopropoxy]carbostyril.

reactant | 6-hydroxycarbostyril | 1.6 g | OC=1C=C2C=CC(NC2=CC1)=O | C9H7NO2
reactant | potasium carbonate | 1.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-(4-methoxymethoxy-1-piperidinyl)-ethyl-N-(3-chloropropyl)urea | COCOC1CCN(CC1)CCN(C(=O)N)CCCCl | C13H26ClN3O3
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 6-[3-{N-[2-(4-methoxymethoxy-1-piperidinyl)ethyl]-N-cyclooctylmethylamino}carbonylaminopropoxy]carbostyril | 0.76 g | COCOC1CCN(CC1)CCN(CC1CCCCCCC1)C(=O)NCCCOC=1C=C2C=CC(NC2=CC1)=O | C31H48N4O5
